US06254912B1
Five parts by weight of fresh leaves of green tea were soaked in a solution, which had been prepared by dissolving in 25 parts by weight of water about 80 parts by weight of “TREHAOSE®”, a high-purity crystalline trehalose hydrate commercialized by Hayashibara Shoji, Inc., Okayama, Japan, and had been boiling at about 106° C. under normal atmospheric pressure, and continued boiling for about 20 min to dehydrate and concentrate the leaves until the solution was heated to about 112° C. Thereafter, the fried leaves were placed on a plain sieve and allowed to stand at ambient temperature overnight to obtain a non-fried fresh tea leaf coated with crystalline trehalose dihydrate by crystallizing the saccharide thereon.

reactant | TREHAOSE | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
solvent | water | O | H2O
product | trehalose dihydrate | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O.O.O | InChI=1S/C12H22O11.2H2O/c13-1-3-5(15)7(17)9(19)11(21-3)23-12-10(20)8(18)6(16)4(2-14)22-12;;/h3-20H,1-2H2;2*1H2/t3-,4-,5-,6-,7+,8+,9-,10-,11-,12-;;/m1../s1
